US08703953B2
To a stirred solution of 2-amino-2,4-dimethylpentanoic acid (1 g, 6.89 mmol) in tetrahydrofuran (15 mL) and water (15 mL) was added K2CO3 (3.81 g, 27.5 mmol) and the reaction mixture was stirred at room temperature for 10 min. To the resultant mixture (BOC)2O (3.20 mL, 13.77 mmol) was added dropwise and the reaction mixture was allowed to stir at room temperature for 14 h. The reaction mixture was then concentrated under reduced pressure. The aqueous layer was washed with ethyl acetate (3×15 mL) and acidified with a saturated aqueous solution of citric acid (25 mL) then extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with water (2×15 mL), brine (20 mL), dried over sodium sulfate and concentrated under reduced pressure to afford 2-((tert-butoxycarbonyl)amino)-2,4-dimethylpentanoic acid (1.6 g, 6.89 mmol, quantitative yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 5.36 (bs, 1 H), 2.10 (m, 1 H), 1.77 (m, 2 H), 1.74-1.65 (m, 3 H), 1.59 (s, 9 H), 0.89 (m, 3 H), 0.94 (m, 3 H).

reactant | 2-amino-2,4-dimethylpentanoic acid | 6.89 mmol, 1 g | NC(C(=O)O)(CC(C)C)C | C7H15NO2
reactant | K2CO3 | 27.5 mmol, 3.81 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (BOC)2O | 13.77 mmol, 3.20 mL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 2-((tert-butoxycarbonyl)amino)-2,4-dimethylpentanoic acid | 6.89 mmol, 1.6 g, quantitative yield | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC(C)C)C | C12H23NO4
